US03997323
The procedure of Example 1(a) is repeated, using 1,2-butanedithiol and 3-chloro-2-butanone to give 2-ethyl-2,3-dihydro-5,6-dimethyl-1,4-dithiin as a colorless oil, bp 68°-81°/0.7, yield 35%, NMR 1.01 (3t), 1.4-2.9 (2m), 1.87 (6s), 2.6-3.4 (3m). IR, 2910 (sh); 1610 (sh); 1410, 1220 (sh); 1155 (sh); 1070, 735, 700.

reactant | 1,2-butanedithiol | C(C(CC)S)S | C4H10S2
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
product | 2-ethyl-2,3-dihydro-5,6-dimethyl-1,4-dithiin | yield 35% | C(C)C1SC(=C(SC1)C)C | C8H14S2
